US05500484
The procedure in Example 3 was repeated except that 180.25 g of 2-phenyl-2-propoxyethanol was replaced with 194 g of 2-butoxy-2-phenylethanol and 540 g of toluene was replaced with 580 g of cyclohexane, to obtain 130.5 g of 2-butoxy-2-phenylethanal (yield: 68%).

reactant | 2-phenyl-2-propoxyethanol | 180.25 g | C1(=CC=CC=C1)C(CO)OCCC | C11H16O2
reactant | 2-butoxy-2-phenylethanol | 194 g | C(CCC)OC(CO)C1=CC=CC=C1 | C12H18O2
reactant | toluene | 540 g | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane | 580 g | C1CCCCC1 | C6H12
product | 2-butoxy-2-phenylethanal | 130.5 g, yield: 68% | C(CCC)OC(C=O)C1=CC=CC=C1 | C12H16O2
